US05189054
Mix 3-[(phenacyl)amino]-2-carbethoxy-6-fluoroindole (1.0 g, 3.06 mmol), di-tert-butyl dicarbonate (0.70 g, 3.2 mmol), tetrahydrofuran (40 mL), dimethylaminopyridine (33 mg, 0.32 mmol) and stir overnight. Dilute the reaction with ethyl acetate, wash with water, saturated sodium chloride, dry over magnesium sulfate, filter and concentrate in vacuo. Recrystallize from ethyl acetate/hexane followed by flash chromatography (20% ethyl acetate/hexane). Recrystallize again from ethyl acetate/hexane to yield 3-[(phenacyl)amino]-2-carbethoxy-6-fluoro-1-(tert-butyloxycarbonyl)-indole as colorless needles (900 mg, 69%).

reactant | 3-[(phenacyl)amino]-2-carbethoxy-6-fluoroindole | 3.06 mmol, 1.0 g | C(C(=O)C1=CC=CC=C1)NC1=C(NC2=CC(=CC=C12)F)C(=O)OCC | C19H17FN2O3
reactant | di-tert-butyl dicarbonate | 3.2 mmol, 0.70 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
reactant | dimethylaminopyridine | 0.32 mmol, 33 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[(phenacyl)amino]-2-carbethoxy-6-fluoro-1-(tert-butyloxycarbonyl)-indole | 900 mg, 69% | C(C(=O)C1=CC=CC=C1)NC1=C(N(C2=CC(=CC=C12)F)C(=O)OC(C)(C)C)C(=O)OCC | C24H25FN2O5
